US08378095B2
To a solution of 5-(4-methoxyphenyl)-2-(thiophen-2-yl)oxazole-4-carboxylic acid in DCM (2 mL) and DMF (1 mL) was added hydroxybenzotriazole monohydrate (0.022 g, 0.14 mmol) followed by 0.5M ammonia in dioxane (1.3 mL, 0.65 mmol). A solution of 1-(3-(dimethylamino)propyl)-3-ethyl-carbodiimide hydrochloride (0.078 g, 0.41 mmol) in DMF/DCM (4:1, 0.5 mL) was added and the reaction stirred at room temperature overnight. The solvents were removed in vacuo and the residue was purified by preparative HPLC to afford 5-(4-methoxyphenyl)-2-(thiophen-2-yl)oxazole-4-carboxamide (0.0128 g, 0.04 mmol, 15%) as a white solid. 1H NMR (CDCl3) δ 3.85 (3H, s), 5.53 (1H, br. s), 7.00 (2H, d), 7.16 (1H, dd), 7.17 (1H, br. s), 7.48 (1H, dd), 7.74 (1H, dd), 8.32 (2H, d). LCMS (2) Rt: 2.90 min; m/z (ES+) 301.

reactant | 5-(4-methoxyphenyl)-2-(thiophen-2-yl)oxazole-4-carboxylic acid | COC1=CC=C(C=C1)C1=C(N=C(O1)C=1SC=CC1)C(=O)O | C15H11NO4S
reactant | hydroxybenzotriazole monohydrate | 0.14 mmol, 0.022 g | O.OC1=CC=CC=2NN=NC21
reactant | ammonia | 0.5M | N | H3N
reactant | dioxane | 0.65 mmol, 1.3 mL | O1CCOCC1 | C4H8O2
reactant | 1-(3-(dimethylamino)propyl)-3-ethyl-carbodiimide hydrochloride | 0.41 mmol, 0.078 g | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF DCM | 0.5 mL | CN(C)C=O.C(Cl)Cl
product | 5-(4-methoxyphenyl)-2-(thiophen-2-yl)oxazole-4-carboxamide | 0.04 mmol, 0.0128 g, 15% | COC1=CC=C(C=C1)C1=C(N=C(O1)C=1SC=CC1)C(=O)N | C15H12N2O3S
